US04622164
A solution in 300 ml of cyclohexane of 24.8 g of 1-(trans-4-propylcyclohexyl)-4-propylcyclohexene [obtainable by reacting 4-propylcyclohexanone with 4-propylcyclohexylmagnesium bromide to give 1-(trans-4-propylcyclohexyl)-4-propylcyclohexanol and dehydrating the latter] is hydrogenated over 4 g of 10% PdC at 20° and 1 bar until absorption of H2 ceases. The mixture is filtered and worked up analogously to Example 3 via the thiourea adduct to give trans,trans-4,4'-dipropylbicyclohexyl, c.p. 41°.

reactant | 1-(trans-4-propylcyclohexyl)-4-propylcyclohexene | 24.8 g | C(CC)[C@@H]1CC[C@H](CC1)C1=CCC(CC1)CCC | C18H32
reactant | 4-propylcyclohexanone | C(CC)C1CCC(CC1)=O | C9H16O
reactant | 4-propylcyclohexylmagnesium bromide | C(CC)C1CCC(CC1)[Mg]Br
solvent | cyclohexane | 300 ml | C1CCCCC1 | C6H12
product | 1-(trans-4-propylcyclohexyl)-4-propylcyclohexanol | C(CC)[C@@H]1CC[C@H](CC1)C1(CCC(CC1)CCC)O | C18H34O
